US05227381
In 3 ml of acetic acid is dissolved 0.2 g of 6-{4-[N-(2-hydroxypropyl)-N-cyclohexylmethylaminocarbonyl]butoxy}carbostyril. Thereto is dropwise added 0.3 ml of an aqueous solution containing 0.07 g of chromic acid at room temperature. The mixture is stirred for 1 hour, and 0.3 ml of isopropyl alcohol is added. Acetic acid is removed by evaporation under reduced pressure. The residue is made alkaline with sodium bicarbonate and then extracted with chloroform. The extract is washed with water and dried with anhydrous magnesium sulfate. The solvent is removed by evaporation. The residue is purified by means of a silica gel column chromatography (eluent; chloroform:methanol=20:1) and recrystallized from diethyl ether to obtain 0.07 g of 6-[4-(N-acetylmethyl-N-cyclohexylmethylaminocarbonyl)butoxy]carbostyril.

reactant | 6-{4-[N-(2-hydroxypropyl)-N-cyclohexylmethylaminocarbonyl]butoxy}carbostyril | 0.2 g | OC(CN(C(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O)CC1CCCCC1)C | C24H34N2O4
reactant | chromic acid | 0.07 g | [Cr](=O)(=O)(O)O
reactant | isopropyl alcohol | 0.3 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(N-acetylmethyl-N-cyclohexylmethylaminocarbonyl)butoxy]carbostyril | 0.07 g | C(C)(=O)CN(C(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O)CC1CCCCC1 | C24H32N2O4
